US04284643
700 g of 4-trifluoromethylmercapto-toluene in 2,000 ml of CCl4 were initially introduced into a glass chlorination apparatus and heated to the reflux temperature. The solution was irradiated with a UV lamp. 3 ml of bromine were added before the start of the chlorination. When the color of the bromine had disappeared, 200 g of chlorine were passed in over a period of 6 hours. By fractional distillation over a 40 cm packed column, in addition to non-chlorinated starting material, 560 g of 4-trifluoromethylmercaptobenzyl chloride were obtained. Boiling point=97°-8° C./14 mm Hg, nD20 =1.5072.

reactant | 4-trifluoromethylmercapto-toluene | 700 g | FC(F)(F)SC1=CC=C(C=C1)C | C8H7F3S
reactant | bromine | 3 ml | BrBr | Br2
reactant | chlorine | 200 g | ClCl | Cl2
solvent | CCl4 | 2,000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-trifluoromethylmercaptobenzyl chloride | 560 g | FC(F)(F)SC1=CC=C(CCl)C=C1 | C8H6ClF3S
